US07855194B2
Step 2: (4-Chloro-3,5-diethoxy-phenyl)-methanol
To a solution of 4-chloro-3,5-diethoxy-benzoic acid ethyl ester (5.0 g, 18.33 mmol, 1.0 equiv) in dichloromethane (25 mL) was added slowly over a time period of 15 min under slight cooling to −30° C. a solution of diisobutylaluminium hydride (55.0 mL, 55.00 mmol, 3.0 equiv; 1 M solution in THF). After 30 min the excess hydride was quenched by cautious addition of methanol (10 mL) and water (2 mL). The mixture was stirred for 30 min, a solution of 1 M HCl was added and the aqueous layer extracted with ethyl acetate (3×100 mL). The combined organic phases were dried over MgSO4, concentrated by evaporation under reduced pressure providing 4.0 g (95%) of the title compound. 1H NMR (300 MHz, CDCl3): δ 1.45 (t, J=7.0 Hz, 6H), 1.93 (br s, 1H), 4.09 (q, J=7.0 Hz, 4H), 4.62 (s, 2H), 6.57 (s, 2H). 13C NMR (75 MHz, CDCl3): δ 14.74, 64.96, 65.18, 104.30, 110.65, 140.29, 155.66. MS (ISP): 231.4 [M+H]+.

reactant | 4-chloro-3,5-diethoxy-benzoic acid ethyl ester | 18.33 mmol, 5.0 g, 1.0 equiv | C(C)OC(C1=CC(=C(C(=C1)OCC)Cl)OCC)=O | C13H17ClO4
reactant | diisobutylaluminium hydride | 55.00 mmol, 1 M, 55.0 mL, 3.0 equiv | [H-].C(C(C)C)[Al+]CC(C)C
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | (4-Chloro-3,5-diethoxy-phenyl)-methanol | 4.0 g, 95% | ClC1=C(C=C(C=C1OCC)CO)OCC | C11H15ClO3
